### PR TITLE
Insert invariant

### PR DESCRIPTION
**Pull request by Lingyin00**

### CODE REVIEW

File: Filrb/Internal/Invariants/RBInv.lean [hunk 1]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
-    (hcl : ChildInv2 l) (hcr : ChildInv r)
-    (hhl : HeightInv l) (hhr : HeightInv r)
-    (hbh : blackHeightLeft l = blackHeightLeft r) :
-    ChildInv (baliL x l r) ∧ HeightInv (baliL x l r) ∧ blackHeightLeft (baliL x l r) = blackHeightLeft l + 1 := by
-  sorry
+/- symmetric proof of `baliL`and `baliR`
+   it tells that if no red-red conflict happens at the `left` subtree or `right` subtree,
+   the `ChildInv2` can be upgraded as `ChildInv`-/
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+lemma rbInv_baliL_of_rbInv {x : α} {l r : Raw α} (hcl: ChildInv2 l) (hcr: ChildInv r) (hr : HeightInv l)
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]:
```suggestion
lemma rbInv_baliL_of_rbInv {x : α} {l r : Raw α} (hcl : ChildInv2 l) (hcr : ChildInv r) (hr : HeightInv l)
```

File: Filrb/Internal/Invariants/RBInv.lean [hunk 2]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
 
-theorem rbInv_baliL_of_rbInv {x : α} {l r : Raw α}
-    (hcl : ChildInv2 l) (hcr : ChildInv r)
-    (hhl : HeightInv l) (hhr : HeightInv r)
-    (hbh : blackHeightLeft l = blackHeightLeft r) :
-    ChildInv (baliL x l r) ∧ HeightInv (baliL x l r) ∧ blackHeightLeft (baliL x l r) = blackHeightLeft l + 1 := by
-  sorry
+/- symmetric proof of `baliL`and `baliR`
+   it tells that if no red-red conflict happens at the `left` subtree or `right` subtree,
+   the `ChildInv2` can be upgraded as `ChildInv`-/
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: This comment seems imprecise. Either left or right (the one with ChildInv2) actually could have a red-red conflict, but the balancing operation bali fixes that, s.t. ChildInv2 can be upgraded to ChildInv, right?

File: Filrb/Internal/Invariants/RBInv.lean [hunk 3]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+lemma rbInv_baliL_of_rbInv {x : α} {l r : Raw α} (hcl: ChildInv2 l) (hcr: ChildInv r) (hr : HeightInv l)
+    (hl : HeightInv r)(hh: blackHeightLeft l = blackHeightLeft r) :
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]:
```suggestion
    (hl : HeightInv r) (hh : blackHeightLeft l = blackHeightLeft r) :
```

File: Filrb/Internal/Invariants/RBInv.lean [hunk 4]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+    (ChildInv (baliL x l r)) ∧ HeightInv (baliL x l r) ∧ blackHeightLeft (baliL x l r) = blackHeightLeft l + 1 := by
+    unfold baliL
+    split
+    · aesop
+    · aesop
+    · simp_all only [imp_false, childInv_black_node, and_true, heightInv_node, and_self, blackHeight_black_node]
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: simp_all not needed

File: Filrb/Internal/Invariants/RBInv.lean [hunk 5]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+      cases l
+      · aesop
+      · next _ _ _ _ color _ _ _ =>
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]:
```suggestion
      · next color _ _ _ =>
```
Optional nitpick

File: Filrb/Internal/Invariants/RBInv.lean [hunk 6]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+        cases color <;> aesop (add safe norm rootColor_black_of_not_red)
 
-theorem rbInv_baliR_of_rbInv {x : α} {l r : Raw α}
-    (hcl : ChildInv l) (hcr : ChildInv2 r)
-    (hhl : HeightInv l) (hhr : HeightInv r)
-    (hbh : blackHeightLeft l = blackHeightLeft r) :
-    ChildInv (baliR x l r) ∧ HeightInv (baliR x l r) ∧ blackHeightLeft (baliR x l r) = blackHeightLeft l + 1 := by
-  sorry
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+lemma rbInv_baliR_of_rbInv {x : α} {l r : Raw α} (hcl: ChildInv l) (hcr: ChildInv2 r) (hl : HeightInv l)
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: baliL nitpicks apply for baliR as well

File: Filrb/Internal/Invariants/RBInv.lean [hunk 7]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+omit [Preorder α] [LawfulOrd α] in
+lemma rbInv_ins_of_rbInv (x : α) (t : Raw α) (hc1 : ChildInv t) (hh : HeightInv t) :
+    (if t.rootColor == .black then ChildInv (ins x t) else ChildInv2 (ins x t) ) ∧ (HeightInv (ins x t)) ∧
+    (ins x t).blackHeightLeft = t.blackHeightLeft := by
+     induction t with
+     | nil =>
+        simp_all only [childInv_nil, heightInv_nil, rootColor_nil, beq_self_eq_true, ↓reduceIte]
+        apply And.intro
+        · unfold ins; aesop
+        · unfold ins; aesop
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: You can unfold first, then aesop can handle the rest

File: Filrb/Internal/Invariants/RBInv.lean [hunk 8]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+        · next h => -- big case 1: root color is black, ChildInv
+          unfold ins
+          split
+          · aesop
+          · rename_i heq
+            split
+            · simp at heq
+              obtain ⟨h1, h2, h3, h4⟩ := heq
+              subst h1 h2 h3 h4
+              let L := ins x left
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: unused?

File: Filrb/Internal/Invariants/RBInv.lean [hunk 9]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+     | node left data color right lih rih =>
+        have hcl : ChildInv left := by aesop
+        have hhl : HeightInv left := by aesop
+        have hcr : ChildInv right := by aesop
+        have hhr : HeightInv right := by aesop
+        have hl := lih hcl hhl -- new ih for left
+        have hr := rih hcr hhr -- new ih for right
+        split
+        · next h => -- big case 1: root color is black, ChildInv
+          unfold ins
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: You can unfold directly after the inductive step, so you dont have to write it in each split. The main reason for unfolding later on is that your IH gets to keep `ins` and thus you can more easily apply it when you call other lemmas with `ins`

File: Filrb/Internal/Invariants/RBInv.lean [hunk 10]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
-    ChildInv (baliL x l r) ∧ HeightInv (baliL x l r) ∧ blackHeightLeft (baliL x l r) = blackHeightLeft l + 1 := by
-  sorry
+/- symmetric proof of `baliL`and `baliR`
+   it tells that if no red-red conflict happens at the `left` subtree or `right` subtree,
+   the `ChildInv2` can be upgraded as `ChildInv`-/
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+lemma rbInv_baliL_of_rbInv {x : α} {l r : Raw α} (hcl: ChildInv2 l) (hcr: ChildInv r) (hr : HeightInv l)
+    (hl : HeightInv r)(hh: blackHeightLeft l = blackHeightLeft r) :
+    (ChildInv (baliL x l r)) ∧ HeightInv (baliL x l r) ∧ blackHeightLeft (baliL x l r) = blackHeightLeft l + 1 := by
+    unfold baliL
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: The second line of the theorem statement is correctly indented at 4 spaces since it didnt fit into one line, but the actual proof should start at an indentation of 2, and each split after should indent it by 2 further. At `rbInv_ins_of_rbInv` it somehow is indented at 5, which strikes out when reading the file as a whole^^

File: Filrb/Internal/Invariants/RBInv.lean [hunk 11]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+              have := rbInv_baliL_of_rbInv (x := data) (l := ins x left) (r := right)
+              aesop (add safe norm childInv2_of_childInv)
+            · aesop
+            · simp at heq
+              obtain ⟨h1, h2, h3, h4⟩ := heq
+              subst h1 h2 h3 h4
+              let R := ins x right
+              have := rbInv_baliR_of_rbInv (x := data) (l := left) (r := ins x right)
+              aesop (add safe norm childInv2_of_childInv)
+          · split <;> aesop
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: This whole thing (big case 2) can actually be handled just by aesop - it doesnt even require a recursive application of `rbInv_baliL_of_rbInv`.  It actually makes a lot of sense that the proof isnt THAT symmetrical since the red root gives us more information on the childs and ChildInv2 as a result can be proven easier. Therefore you should probably change the comment above this theorem?

File: Filrb/Internal/Invariants/RBInv.lean [hunk 12]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
 
+omit [Preorder α] [LawfulOrd α] in
 theorem rbInv_insert_of_rbInv (x : α) (t : Raw α) (hc : ChildInv t) (hh : HeightInv t) :
     ChildInv (t.insert x) ∧ HeightInv (t.insert x) := by
-  sorry
+    simp[insert]
+    simp[paintColor]
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: Non-terminal simps (I would probably just add them together as well). 

Also, there would be an emptyspace after the `simp`, so `simp [insert]`, just like e.g. `rw [insert]`

File: Filrb/Internal/Invariants/RBInv.lean [hunk 13]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+    split
+    · simp_all
+    · next t1 left data c right heq =>
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: Unused

File: Filrb/Internal/Invariants/RBInv.lean [hunk 14]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+              obtain ⟨h1, h2, h3, h4⟩ := heq
+              subst h1 h2 h3 h4
+              let L := ins x left
+              have := rbInv_baliL_of_rbInv (x := data) (l := ins x left) (r := right)
+              aesop (add safe norm childInv2_of_childInv)
+            · aesop
+            · simp at heq
+              obtain ⟨h1, h2, h3, h4⟩ := heq
+              subst h1 h2 h3 h4
+              let R := ins x right
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: unused?

File: Filrb/Internal/Invariants/RBInv.lean [hunk 15]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+      · aesop
+      · next _ _ _ _ color _ _ _ =>
+        cases color <;> aesop (add safe norm rootColor_black_of_not_red)
+
+/- Proof of ins preserves the weaker invariant ChildInv2 and Heightinv.
+   The proof is very symmetric,
+   keys of this proof are only to `unfold` and `split` at the right place
+   and generate right hypothesis for `aesop` in order to do automation-/
+omit [Preorder α] [LawfulOrd α] in
+lemma rbInv_ins_of_rbInv (x : α) (t : Raw α) (hc1 : ChildInv t) (hh : HeightInv t) :
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]:
```suggestion
lemma rbInv_ins_of_rbInv (x : α) (t : Raw α) (hc : ChildInv t) (hh : HeightInv t) :
```

File: Filrb/Internal/Invariants/RBInv.lean [hunk 16]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+        apply And.intro
+        · unfold ins; aesop
+        · unfold ins; aesop
+     | node left data color right lih rih =>
+        have hcl : ChildInv left := by aesop
+        have hhl : HeightInv left := by aesop
+        have hcr : ChildInv right := by aesop
+        have hhr : HeightInv right := by aesop
+        have hl := lih hcl hhl -- new ih for left
+        have hr := rih hcr hhr -- new ih for right
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: If you want to do something like this (somehow it actually seems required when automating the proof further), something like this seems more like the way to do it, but we did explicitly state that we dont care about performance and such, therefore very much optional:
```
        have ⟨hcl, hcr⟩ := childInv_node hc1
        simp only [heightInv_node] at hh
        have ⟨hhl, hhr, hbh⟩ := hh
        have := lih hcl hhl
        have := rih hcr hhr
```

File: Filrb/Internal/Invariants/RBInv.lean [hunk 17]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+            · simp at heq
+              obtain ⟨h1, h2, h3, h4⟩ := heq
+              subst h1 h2 h3 h4
+              let L := ins x left
+              have := rbInv_baliL_of_rbInv (x := data) (l := ins x left) (r := right)
+              aesop (add safe norm childInv2_of_childInv)
+            · aesop
+            · simp at heq
+              obtain ⟨h1, h2, h3, h4⟩ := heq
+              subst h1 h2 h3 h4
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: Since two of three cases use this code snippet, I would do that before the split

File: Filrb/Internal/Invariants/RBInv.lean [hunk 18]
```diff
@@ -278,24 +277,112 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+        · unfold ins; aesop
+     | node left data color right lih rih =>
+        have hcl : ChildInv left := by aesop
+        have hhl : HeightInv left := by aesop
+        have hcr : ChildInv right := by aesop
+        have hhr : HeightInv right := by aesop
+        have hl := lih hcl hhl -- new ih for left
+        have hr := rih hcr hhr -- new ih for right
+        split
+        · next h => -- big case 1: root color is black, ChildInv
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: Unused

**Review by Daniel1854 — CHANGES_REQUESTED** [review]
Sorry for the amount of nitpicks^^ I dont have a strong style preference but consistency is key

File: Filrb/Internal/Invariants/RBInv.lean (hunk 8 above)
Comment (Lingyin00) [reply Filrb/Internal/Invariants/RBInv.lean]: > unused?

no,I think they are all made to let ```aesop (add norm childInv2_of_childInv)``` to close the goal?

File: Filrb/Internal/Invariants/RBInv.lean (hunk 17 above)
Comment (Lingyin00) [reply Filrb/Internal/Invariants/RBInv.lean]: the automation do seem like unstable. When I put it before the nearest split, the aesop in the third goal cannot close the goal, but generate 12 subgoals

File: Filrb/Internal/Invariants/RBInv.lean (hunk 2 above)
Comment (Lingyin00) [reply Filrb/Internal/Invariants/RBInv.lean]: > This comment seems imprecise. Either left or right (the one with ChildInv2) actually could have a red-red conflict, but the balancing operation bali fixes that, s.t. ChildInv2 can be upgraded to ChildInv, right?

oh you're right it is. But the automation hide the details how I approached this proof.  The comment is kind of misleading, what I would like to say is : Firstly when doing it manually, I need to prove something like: we have one hypothesis that said ChildInv2 left, but we also have another two hypothesis said that the red-red conflit is false on the root of left, that's why I realized I could use the theorem rootColor_black_of_not_red

File: Filrb/Internal/Invariants/RBInv.lean (hunk 11 above)
Comment (Lingyin00) [reply Filrb/Internal/Invariants/RBInv.lean]: I understand that it's actually not fully symmetric, but how will just aesop close the second big goal?

File: Filrb/Internal/Invariants/RBInv.lean (hunk 2 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean]: Yeah, sure, it makes sense to write how you approached the proof, but as it is currently written, I didnt understand it as such. Especially since you seem to be only talking about the last case (where the first two cases of baliL didnt match, so no red-red in left conflict), so it would make more sense directly at that case? 

rootColor_black_of_not_red is btw just a lemma to let the automation pick up the facts of the non-matching cases beforehand, so in this case it can work with the fact that left is either black with red childs or red with black childs, but it doesnt actually add new information into the context

File: Filrb/Internal/Invariants/RBInv.lean (hunk 8 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean]: Im not sure if we are talking about the same thing? Clearly the `L` of `let L := ins x left` is never used and the only place where it could be used by yourself is at the invocation of the `rbInv_baliL_of_rbInv (x := data) (l := ins x left) (r := right)`. What would `aesop` do with a named variable that is the result of `ins x left`?

If you are unsure yourself, just try deleting it

File: Filrb/Internal/Invariants/RBInv.lean (hunk 11 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean]: You actually changed the stuff thats in your context by not invoking `ih` with the proper proof terms before the split. After the split `aesop` cannot prove that automaticly anymore. If you add it again, it works
```
  | node left data color right lih rih =>
    have ⟨hcl, hcr⟩ := childInv_node hc
    simp only [heightInv_node] at hh
    have ⟨hhl, hhr, hbh⟩ := hh
    have := lih hcl hhl
    have := rih hcr hhr
    unfold ins
    split
    -- big case 1: root color is black, ChildInv
    · sorry
    -- big case 2: root color is red, ChildInv2
    · aesop
```
EDIT: or are you asking how is aesop able to do that?

File: Filrb/Internal/Invariants/RBInv.lean (hunk 17 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean]: This could very well be due to the missing ih invocation. This works for me:
```
      · rename_i heq
        simp at heq
        obtain ⟨h1, h2, h3, h4⟩ := heq
        subst h1 h2 h3 h4
        split
        . have := rbInv_baliL_of_rbInv (x := data) (l := ins x left) (r := right)
          aesop (add safe norm childInv2_of_childInv)
        · aesop
        · have := rbInv_baliR_of_rbInv (x := data) (l := left) (r := ins x right)
          aesop (add safe norm childInv2_of_childInv)
```

File: Filrb/Internal/Invariants/RBInv.lean (hunk 11 above)
Comment (Lingyin00) [reply Filrb/Internal/Invariants/RBInv.lean]: > You actually changed the stuff thats in your context by not invoking `ih` with the proper proof terms before the split. After the split `aesop` cannot prove that automaticly anymore. If you add it again, it works
> 
> ```
>   | node left data color right lih rih =>
>     have ⟨hcl, hcr⟩ := childInv_node hc
>     simp only [heightInv_node] at hh
>     have ⟨hhl, hhr, hbh⟩ := hh
>     have := lih hcl hhl
>     have := rih hcr hhr
>     unfold ins
>     split
>     -- big case 1: root color is black, ChildInv
>     · sorry
>     -- big case 2: root color is red, ChildInv2
>     · aesop
> ```
> 
> EDIT: or are you asking how is aesop able to do that?

Oki I see, it is because I scroll down to your later comments, delete some hypothesis, which makes aesop cannot resolve the goal when back here again

File: Filrb/Internal/Invariants/RBInv.lean (hunk 8 above)
Comment (Lingyin00) [reply Filrb/Internal/Invariants/RBInv.lean]: > Im not sure if we are talking about the same thing? Clearly the `L` of `let L := ins x left` is never used and the only place where it could be used by yourself is at the invocation of the `rbInv_baliL_of_rbInv (x := data) (l := ins x left) (r := right)`. What would `aesop` do with a named variable that is the result of `ins x left`?
> 
> If you are unsure yourself, just try deleting it

Yeah we are not talking about the same thing, sorry I misunderstand which "unused" you're referring to. The `let` is already been deleted during last push update:)

File: Filrb/Internal/Invariants/RBInv.lean (hunk 17 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean]: Actually at that point you could even just do
```
        have := rbInv_baliL_of_rbInv (x := data) (l := ins x left) (r := right)
        have := rbInv_baliR_of_rbInv (x := data) (l := left) (r := ins x right)
        aesop (add safe norm childInv2_of_childInv)
```
instead of the split and aesop will use the lemmas as they fit^^

File: Filrb/Internal/Invariants/RBInv.lean [hunk 19]
```diff
@@ -278,24 +277,84 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+    have ⟨hhl, hhr, hbh⟩ := hh
+    have := lih hcl hhl
+    have := rih hcr hhr
+    unfold ins
+    split
+    · next h => -- big case 1: root color is black, ChildInv
+      split
+      · aesop
+      · rename_i heq
+        simp at heq
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: non-terminal simp

File: Filrb/Internal/Invariants/RBInv.lean [hunk 20]
```diff
@@ -278,24 +277,84 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+/- Proof of ins preserves the weaker invariant ChildInv2 and Heightinv.
+   Keys of this proof are only to `unfold` and `split` at the right place (for case root color is black)
+   and generate *right and enough hypothesis* for `aesop` in order to do automation (for case root color is red)-/
+omit [Preorder α] [LawfulOrd α] in
+lemma rbInv_ins_of_rbInv (x : α) (t : Raw α) (hc : ChildInv t) (hh : HeightInv t) :
+    (if t.rootColor == .black then ChildInv (ins x t) else ChildInv2 (ins x t) ) ∧ (HeightInv (ins x t)) ∧
+    (ins x t).blackHeightLeft = t.blackHeightLeft := by
+  induction t with
+  | nil =>
+    simp_all only [childInv_nil, heightInv_nil, rootColor_nil, beq_self_eq_true, ↓reduceIte]
```
Comment (Daniel1854) [inline Filrb/Internal/Invariants/RBInv.lean]: the later call to aesop would handle that

**Review by Daniel1854 — COMMENTED** [review]
It looks pretty good, just two details

**Review by Daniel1854 — APPROVED** [review]

**Review by hargoniX — APPROVED** [review]
